US07754719B2
1.40 g (4.5 mmol) of (+)-3-benzo[1,3]dioxol-5-ylmethyl-1-benzyl-piperidine is dissolved in 35 ml MeOH and 1 ml AcOH and hydrogenated over Pd/C 10% (0.3 g) for 2 d until hydrogen absorption is complete. The mixture is filtered over Celite®, and the filtrate is evaporated, diluted with CH2Cl2, washed with sat. aq. Na2CO3 solution and evaporated to give (+)-3-benzo[1,3]dioxol-5-ylmethyl-piperidine ([α]Drt=5.90 (c=0.5, DMSO)) which is used without further purification.

reactant | (+)-3-benzo[1,3]dioxol-5-ylmethyl-1-benzyl-piperidine | 4.5 mmol, 1.40 g | O1COC2=C1C=CC(=C2)CC2CN(CCC2)CC2=CC=CC=C2 | C20H23NO2
solvent | MeOH | 35 ml | CO | CH4O
product | (+)-3-benzo[1,3]dioxol-5-ylmethyl-piperidine | O1COC2=C1C=CC(=C2)CC2CNCCC2 | C13H17NO2
